US05538988
substituting 4-amino-2-(1,2,3,4-tetrahydronaphthalen-2-yl)-2,4-dihydro[1,2,4]triazole-3-thione and acetic anhydride gave N-[1-(1,2,3,4-tetrahydronaphthalen-2-yl)-5-thioxo-4,5-dihydro-1H-[1,2,4]triazol-4-yl]acetamide, m.p. 199°-201° C.

reactant | 4-amino-2-(1,2,3,4-tetrahydronaphthalen-2-yl)-2,4-dihydro[1,2,4]triazole-3-thione | NN1C(N(N=C1)C1CC2=CC=CC=C2CC1)=S | C12H14N4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-[1-(1,2,3,4-tetrahydronaphthalen-2-yl)-5-thioxo-4,5-dihydro-1H-[1,2,4]triazol-4-yl]acetamide | C1C(CCC2=CC=CC=C12)N1N=CN(C1=S)NC(C)=O | C14H16N4OS
